US05714496
The above oil containing (-)-3-ethynyl-3-butyryloxyquinuclidine was treated with a solution of potassium hydroxide (2.24 g) in methanol (50 ml). The mixture was stirred at ambient temperature for 2 hours. The mixture was evaporated and deionised water (2 ml) was added to the residue to give a solid. The solid was collected by filtration, washed with water (2×2 ml) and dried under vacuum over phosporus pentoxide to give (-)-3-ethynyl-3-hydroxyquinuclidine (611 mg) as a solid, m.p. 199°-202° C., [α]19D =-56.1° (C=1.02, methanol).

reactant | (-)-3-ethynyl-3-butyryloxyquinuclidine | C(#C)C1(CN2CCC1CC2)OC(CCC)=O | C13H19NO2
reactant | potassium hydroxide | 2.24 g | [OH-].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | (-)-3-ethynyl-3-hydroxyquinuclidine | 611 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
